* T1 Adder Cell — SFQ Full Adder (Sum + Carry)
* Reference: t1str.md topology description
* 18 nodes N1~N18, 11 junctions J1~J11, 2 inputs (I, CLK), 2 outputs (S, C)
*
* Model: jjmit (must be .include'd before this file)
*   .include ../../circuits/models/jjmit.cir
*   All junctions share Ic×RN=1.6mV, CAP=0.07pF×area

* DC convergence resistors
.subckt T1 I CLK S C N_BIAS1 N_BIAS2 N_BIAS3
R_DC3   N3   0  10K
R_DC4   N4   0  10K
R_DC9   N9   0  10K
R_DC12  N12  0  10K
R_DC17  N17  0  10K

* === I (Data) Input Path ===
L1     I       N1      0.213P
RB1    N1      N_BIAS1 6.8
L2     N1      N2      1.6P
B_J1   N2      0       jjmit area=3.5
L3     N2      N3      2.028P

* === I Main Path → Carry ===
L10    N3      N4      0.905P
B_J6   N4      N5      jjmit area=1.051
L15    N5      N6      1.297P
L16    N6      N7      4.644P
L17    N7      C       2.0P
B_J10  N6      0       jjmit area=0.869
B_J11  N7      0       jjmit area=1.5

* === I Split Path → N12 ===
L7     N3      N8      1.219P
B_J4   N8      N10     jjmit area=0.803
RB3    N10     N_BIAS3 16.0
L8     N10     N11     1.383P
B_J5   N11     0       jjmit area=0.779
L9     N11     N12     5.366P

* === N5 → N12 Path ===
B_J8   N5      N9      jjmit area=1.0
L12    N9      N12     1.219P

* === N12 → N17 Merge ===
L11    N12     N13     0.957P
B_J7   N13     N17     jjmit area=1.0

* === CLK Input Path ===
L4     CLK     N14     0.153P
RB2    N14     N_BIAS2 6.8
L5     N14     N15     0.6P
B_J2   N15     0       jjmit area=3.5
L6     N15     N16     2.337P
B_J3   N16     N17     jjmit area=1.8

* === Output Stage → Sum ===
L13    N17     N18     1.009P
B_J9   N18     0       jjmit area=1.0
L14    N18     S       4.6P

.ends T1
